US07790724B2
a) 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde
A mixture of 1H-imidazole-2-carbaldehyde (1.1 g, 11 mmol), potassium carbonate (3.0 g, 23 mmol), and SEM-Cl (2.4 mL, 14 mmol) in 10 mL of acetone was heated to 60° C. for 8 h. The mixture was diluted with EtOAc (100 mL) and washed with NaHCO3 (2×100 mL) and brine (100 mL) and the organic layer dried (Na2SO4) and concentrated. The title compound was purified by elution from a 20-g SPE column with 50% EtOAc to give 1.5 g (58%) of a colorless oil. 1H-NMR (CDCl3, 400 MHz): δ 9.82 (s, 1H), 7.38 (d, J=1.0 Hz, 1H), 7.34 (d, J=1.0 Hz, 1H), 5.78 (s, 2H), 3.55 (m, 2H), 0.94 (m, 2H), −0.02 (s, 9H).

reactant | 1H-imidazole-2-carbaldehyde | 11 mmol, 1.1 g | N1C(=NC=C1)C=O | C4H4N2O
reactant | potassium carbonate | 23 mmol, 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | SEM-Cl | 14 mmol, 2.4 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-(2-Trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde | 1.5 g, 58% | C[Si](CCOCN1C(=NC=C1)C=O)(C)C | C10H18N2O2Si
